US07932256B2
(S)-4-(1-Cyclopropyl-2-methoxyethyl)-6-(6-hydroxy-2,5-dimethylpyridin-3-ylamino)-5-oxo-4,5-dihydropyrazine-2-carbonitrile.
(S)-4-(1-Cyclopropyl-2-methoxyethyl)-6-(6-methoxy-2,5-dimethylpyridin-3-ylamino)-5-oxo-4,5-dihydropyrazine-2-carbonitrile (3.00 g, 8.12 mmol) and KI (6.2 g, 37.3 mmol) in glacial acetic acid (80 mL) was heated at 100° C. with stirring for 1 h. LC-MS analysis indicated>98% conversion to the required product. The reaction mixture was cooled to ambient temperature and acetic acid was evaporated in vacuo. The residue was partitioned between ethyl acetate (3×150 mL) and H2O (˜100 mL). The organic layer was washed with brine (100 mL) and then dried over Na2SO4. The organic layer was evaporated in vacuo and the dark brown residue was purified by Biotage SiO2 column chromatography (5% MeOH/CH2Cl2, Rf=0.16) to give pure (S)-4-(1-cyclopropyl-2-methoxyethyl)-6-(6-hydroxy-2,5-dimethylpyridin-3-ylamino)-5-oxo-4,5-dihydropyrazine-2-carbonitrile (2.33 g, 81%) as pale yellow solid: 1H NMR (CDCl3) δ 7.85-7.55 (br. s, 1H), 7.48 (s, 1H), 4.16-4.12 (m, 1H), 3.73 (dd, 1H, JAB=10.3 Hz, JAX=4.9 Hz), 3.66 (dd, JBX=2.2 Hz), 3.35 (s, 3H), 2.40-2.20 (br s, 6H), 1.39-1.32 (m, 1H), 0.85-0.79 (m, 1H), 0.67-0.61 (m, 1H), 0.55-0.51 (m, 1H), 0.34-0.29 (m, 1H); LRMS (ESI) m/e 356 [(M+H)+, calcd for C18H21N5O3 356]; tR=1.8 min (Solvent A: MeOH:H2O:TFA=10:90:0.1; Solvent B: MeOH:H2O:TFA=90:10:0.1; 0% B in A to 100% B in A linear gradient in a 3 min run with 1 min hold time at the end, λ=280 nm).

reactant | (S)-4-(1-Cyclopropyl-2-methoxyethyl)-6-(6-methoxy-2,5-dimethylpyridin-3-ylamino)-5-oxo-4,5-dihydropyrazine-2-carbonitrile | 8.12 mmol, 3.00 g | C1(CC1)[C@@H](COC)N1C=C(N=C(C1=O)NC=1C(=NC(=C(C1)C)OC)C)C#N | C19H23N5O3
solvent | acetic acid | 80 mL | C(C)(=O)O | C2H4O2
product | (S)-4-(1-Cyclopropyl-2-methoxyethyl)-6-(6-hydroxy-2,5-dimethylpyridin-3-ylamino)-5-oxo-4,5-dihydropyrazine-2-carbonitrile | C1(CC1)[C@@H](COC)N1C=C(N=C(C1=O)NC=1C(=NC(=C(C1)C)O)C)C#N | C18H21N5O3
